US06177419B1
6-(2-Hydroxy-3-methoxyphenyl)-6′-(2-hydroxy-4-methylphenyl)-2,2′-bipyridine was prepared from 6-bromo-6′-(2-hydroxy-4-methylphenyl)-2,2′-bipyridine and 2-hydroxy-3-methoxyphenylboronic acid in 33% yield using method F; δH [2H6]-DMSO 13.52,(2H, b), 8.31,(2H, dd), 8.26,(1H, d), 8.21,(1H, d), 8.12,(1H, d), 8.02,(1H, d), 7.70,(1H, d), 7.09,(1H, d), 6.92, (1H, t), 6.82,(1H, d), 3.86,(3H, s), 2.32,(3H, s); MS 385 (MH)+; HPLC retention time (system 1) 4.21 minutes.

reactant | 6-bromo-6′-(2-hydroxy-4-methylphenyl)-2,2′-bipyridine | BrC1=CC=CC(=N1)C1=NC(=CC=C1)C1=C(C=C(C=C1)C)O | C17H13BrN2O
reactant | 2-hydroxy-3-methoxyphenylboronic acid | OC1=C(C=CC=C1OC)B(O)O | C7H9BO4
product | 6-(2-Hydroxy-3-methoxyphenyl)-6′-(2-hydroxy-4-methylphenyl)-2,2′-bipyridine | 33% yield | OC1=C(C=CC=C1OC)C1=CC=CC(=N1)C1=NC(=CC=C1)C1=C(C=C(C=C1)C)O | C24H20N2O3
